US07115750B1
2-[(N,N-Dimethylamino)methyl]-6-[4-[(4-methoxybenzyl)oxy]benzyloxy]tetralin
Diethyl azodicarboxylate (40% toluene solution, 1.91 g) was added dropwise to THF solution (6 ml) of 2-[(N,N-dimethylamino)methyl]-6-hydroxytetralin (300 mg), 4-[(4-methoxybenzyl)oxy]benzylalcohol (1.07 g) and triphenylphosphine (1.15 g) at room temperature, which was stirred for 12 hours. The reaction mixture was concentrated, and the residue was purified using alumina column chromatography (development solvent; hexane˜hexane:ethyl acetate=10:1), and recrystallized (ethyl acetate-hexane) to give the titled compound (260 mg).

reactant | Diethyl azodicarboxylate | 1.91 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-[(N,N-dimethylamino)methyl]-6-hydroxytetralin | 300 mg | CN(C)CC1CC2=CC=C(C=C2CC1)O | C13H19NO
reactant | 4-[(4-methoxybenzyl)oxy]benzylalcohol | 1.07 g | COC1=CC=C(COC2=CC=C(CO)C=C2)C=C1 | C15H16O3
reactant | triphenylphosphine | 1.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-[(N,N-Dimethylamino)methyl]-6-[4-[(4-methoxybenzyl)oxy]benzyloxy]tetralin | 260 mg | CN(C)CC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C=C1)OCC1=CC=C(C=C1)OC | C28H33NO3
